US07550474B2
b. 2-(3-Chlorophenyl)-2,2-difluoroacetamide
To a solution of NH3 in MeOH (2 M, 50 mL, 100 mmol) was added (3-chlorophenyl)difluoroacetic acid ethyl ester (4.78 g, 20.4 mmol), as prepared in the preceding step. The homogeneous yellow solution was allowed to sit at room temperature for 13 h, and was then concentrated to provide 3.99 g (95%) of the title compound as a yellow powder. 1H NMR (300 MHz, DMSO-d6) δ 8.41 (br, 1H), 8.09 (br, 1H), 7.68-7.60 (m, 2H), 7.59-7.52 (m, 2H).

reactant | NH3 | N | H3N
reactant | MeOH | 100 mmol, 2 M, 50 mL | CO | CH4O
reactant | (3-chlorophenyl)difluoroacetic acid ethyl ester | 20.4 mmol, 4.78 g | C(C)OC(C(F)(F)C1=CC(=CC=C1)Cl)=O | C10H9ClF2O2
product | 2-(3-Chlorophenyl)-2,2-difluoroacetamide | 3.99 g, 95% | ClC=1C=C(C=CC1)C(C(=O)N)(F)F | C8H6ClF2NO
